US06989393B2
5-Methanesulphonyl-1-[1-(3,3-diphenylpropyl)-piperidin-4-yl]-benzimidazole
A solution of 2-amino-4-methanesulphonyl-1-N-[-1-(3,3-diphenylpropyl)-piperidin-4-yl]aniline (prepared as described below) (50 mg, 0.1 mmol), trimethyl orthoformate (0.7 ml) and para-toluenesulphonic acid monohydrate (2 mg, 0.11 mmol) was stirred at 100° C. After 2.5 h the mixture was cooled and water (10 ml) was added. The solution was partitioned with EtOAc (2×40 ml) then the organics were combined, dried (MgSO4) and concentrated to give the title compound as an oil (47 mg, 0.1 mmol); MS: 474.

reactant | 2-amino-4-methanesulphonyl-1-N-[-1-(3,3-diphenylpropyl)-piperidin-4-yl]aniline | 0.1 mmol, 50 mg | NC1=C(NC2CCN(CC2)CCC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)S(=O)(=O)C | C27H33N3O2S
reactant | trimethyl orthoformate | 0.7 ml | C(OC)(OC)OC | C4H10O3
reactant | para-toluenesulphonic acid monohydrate | 0.11 mmol, 2 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | 10 ml | O | H2O
product | 5-Methanesulphonyl-1-[1-(3,3-diphenylpropyl)-piperidin-4-yl]-benzimidazole | 0.1 mmol, 47 mg | CS(=O)(=O)C1=CC2=C(N(C=N2)C2CCN(CC2)CCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C28H31N3O2S
